US08309725B2
Preparation of 2-(3,4-dichlorophenyl)-1-{(4aRS,8SR,8aRS)-4-[(pyridin-3-yl)methyl]-8-(pyrrolidin-1-yl)perhydroquinoxalin-1-yl}ethan-1-one
2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one (120 mg, 0.30 mmol) was dissolved in absolute CH2Cl2 (10 ml), and nicotinaldehyde (65 mg, 0.61 mmol), NaBH(OAc)3 (128 mg, 0.61 mmol) and glacial acetic acid (36 mg, 0.61 mmol) were added. The mixture was stirred at room temperature. After 21 hours, the same amounts of nicotinaldehyde, NaBH(OAc)3 and glacial acetic acid were again added and the mixture was stirred for 3.5 hours. The mixture was then filtered and the organic phase was extracted by shaking three times with HCl (1 N). The aqueous phase was brought to pH 8 with NaOH (2 N) and extracted by shaking three times with CH2Cl2. The organic phases were dried over Na2SO4 and evaporated in vacuo. The residue was purified by preparative HPLC (as described under Example 14 in MeOH/H2O/Et2NH 80:20:0.1). MeOH was evaporated off from the product fraction, the aqueous phase was extracted by shaking three times with CH2Cl2 and the combined organic phases were dried over Na2SO4 and evaporated. A yellowish resin was isolated.

reactant | 2-(3,4-Dichlorophenyl)-1-[(4aRS,8SR,8aRS)-8-(pyrrolidin-1-yl)-perhydroquinoxalin-1-yl]-ethan-1-one | 0.30 mmol, 120 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1CCNC2CCCC(C12)N1CCCC1 | C20H27Cl2N3O
reactant | nicotinaldehyde | 0.61 mmol, 65 mg | C(C1=CN=CC=C1)=O | C6H5NO
reactant | NaBH(OAc)3 | 0.61 mmol, 128 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 0.61 mmol, 36 mg | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,4-dichlorophenyl)-1-{(4aRS,8SR,8aRS)-4-[(pyridin-3-yl)methyl]-8-(pyrrolidin-1-yl)perhydroquinoxalin-1-yl}ethan-1-one | ClC=1C=C(C=CC1Cl)CC(=O)N1CCN(C2CCCC(C12)N1CCCC1)CC=1C=NC=CC1 | C26H32Cl2N4O
